US06329400B1
A solution of 3 N sodium hydroxide (18.7 mL) is added dropwise to a solution of (3R,4S)-1-(2-tetrahydropyranyloxy)-3-(4-phenylcyclohexylmethyl)-4-methylazetidin-2-one (3.6 g, 0.010 mol) in dioxane (50 mL) at 25° C. and the mixture is stirred for 18 h. Water (10 mL) is added to the reaction mixture and an additional 5 mL of 3 N sodium hydroxide is added dropwise and the mixture is stirred an additional 8 h. The reaction mixture is mixed with water (200 mL), 1 M sodium hydrogen sulfate (60 mL) and EtOAc (100 mL). The aqueous phase is extracted with EtOAc. The combined organic phase is washed with water and saturated sodium chloride solution, dried (sodium sulfate) and concentrated in vacuo to give 3.44 g (92%) of (2R,3S)-2-(4-phenylcyclohexylmethyl)-3-(2-tetrahydropyranyloxyamino)butanoic acid as a white solid. The product is used without further purification:

reactant | sodium hydroxide | 3 N, 18.7 mL | [OH-].[Na+]
reactant | (3R,4S)-1-(2-tetrahydropyranyloxy)-3-(4-phenylcyclohexylmethyl)-4-methylazetidin-2-one | 0.010 mol, 3.6 g | O1C(CCCC1)ON1C([C@@H]([C@@H]1C)CC1CCC(CC1)C1=CC=CC=C1)=O | C22H31NO3
reactant | Water | 10 mL | O | H2O
reactant | sodium hydroxide | 3 N, 5 mL | [OH-].[Na+]
reactant | water | 200 mL | O | H2O
reactant | sodium hydrogen sulfate | 1 M, 60 mL | S(=O)(=O)(O)[O-].[Na+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (2R,3S)-2-(4-phenylcyclohexylmethyl)-3-(2-tetrahydropyranyloxyamino)butanoic acid | 3.44 g, 92% | C1(=CC=CC=C1)C1CCC(CC1)C[C@@H](C(=O)O)[C@H](C)NOC1OCCCC1 | C22H33NO4
